US06969710B2
4-Methyl-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)phenyl]benzenesulfonamide was synthesized from N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide and p-toluenesulfonylchloride (46 mg, 0.239 mmol) according to general method 3 to give 70 mg of a purple solid. MS (posES-FIA) m/z=Found: 487.2. Calcd: 487.14. 1H-NMR δ 7.73-7.45 (m, 7H), 7.26 (d, 2H), 6.74 (s, 1H), 6.62-6.60 (m, 2H), 3.69 (app t, 2H), 3.39 (app t, 2H), 3.29-3.74 (m, 4H), 2.38 (s, 3H).

reactant | N-{2-amino-5-(4-t-butyloxycarbonyl-piperazinyl)-phenyl}benzenesulfonamide | NC1=C(C=C(C=C1)N1CCN(CC1)C(=O)OC(C)(C)C)NS(=O)(=O)C1=CC=CC=C1 | C21H28N4O4S
reactant | p-toluenesulfonylchloride | 0.239 mmol, 46 mg | C1(=CC=C(C=C1)S(=O)(=O)Cl)C | C7H7ClO2S
product | 4-Methyl-N-[2-[(phenylsulfonyl)amino]-4-(1-piperazinyl)phenyl]benzenesulfonamide | CC1=CC=C(C=C1)S(=O)(=O)NC1=C(C=C(C=C1)N1CCNCC1)NS(=O)(=O)C1=CC=CC=C1 | C23H26N4O4S2
